US05434186
Preparation of 2-[(8-Bromooctyl)oxy]-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic Acid Ethyl Ester
Starting with 0.370 g (1.0 mmol) of 5-[[3-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester, and 2.17 g (7.98 mmol) of 1,8-dibromooctane, the title compound was obtained as a colorless oil, in 72.6% yield, using the procedure of example 21.

reactant | 5-[[3-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester | 1.0 mmol, 0.370 g | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)O)=O | C21H22O6
reactant | 1,8-dibromooctane | 7.98 mmol, 2.17 g | BrCCCCCCCCBr | C8H16Br2
product | 2-[(8-Bromooctyl)oxy]-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic Acid Ethyl Ester | 72.6% yield | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)OCCCCCCCCBr)=O | C29H37BrO6
